Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][CH2:2][CH2:3][F:4].[OH:5][C:6]1([c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]([F:13])([F:14])[F:15])[c:16]2[F:17])[CH2:18][CH2:19][NH:20][CH2:21][CH2:22]1>>[CH2:1]([CH2:2][CH2:3][F:4])[N:20]1[CH2:19][CH2:18][C:6]([OH:5])([c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]([F:13])([F:14])[F:15])[c:16]2[F:17])[CH2:22][CH2:21]1,[OH:5][C:6]1([c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]([F:13])([F:14])[F:15])[c:16]2[F:17])[CH2:18][CH2:19][NH:20][CH2:21][CH2:22]1.[Br:101][CH2:1][CH2:2][CH2:3][F:4]>>[CH2:1]([CH2:2][CH2:3][F:4])[N:20]1[CH2:19][CH2:18][C:6]([OH:5])([c:7]2[cH:8][cH:9][cH:10][c:11]([C:12]([F:13])([F:14])[F:15])[c:16]2[F:17])[CH2:22][CH2:21]1,SN2,"[(20, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CS(=O)(=O)O[CH2:1][CH2:2][O:3][CH2:4][CH2:5][O:6][C:7](=[O:8])[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.[CH3:15][S:16][c:17]1[n:18][cH:19][n:20][c:21]2[cH:22][n:23][nH:24][c:25]12>>[CH2:1]([CH2:2][O:3][CH2:4][CH2:5][O:6][C:7](=[O:8])[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[n:24]1[n:23][cH:22][c:21]2[n:20][cH:19][n:18][c:17]([S:16][CH3:15])[c:25]12,CS(=O)(=O)[O:101][CH2:1][CH2:2][O:3][CH2:4][CH2:5][O:6][C:7](=[O:8])[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1.[CH3:15][S:16][c:17]1[n:18][cH:19][n:20][c:21]2[cH:22][n:23][nH:24][c:25]12>>[CH2:1]([CH2:2][O:3][CH2:4][CH2:5][O:6][C:7](=[O:8])[c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[n:24]1[n:23][cH:22][c:21]2[n:20][cH:19][n:18][c:17]([S:16][CH3:15])[c:25]12,SN2,"[(24, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH:1]([CH2:2][CH3:3])[c:4]1[n:5][n:6]2[cH:7][cH:8][cH:9][c:10]2[c:11](=[O:12])[n:13]1[CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][C:22]([CH3:23])([CH3:24])[O:25][C:26](=[O:27])[NH:28][CH2:29][CH2:30][CH2:31][NH2:32]>>[CH:1]([CH2:2][CH3:3])([c:4]1[n:5][n:6]2[cH:7][cH:8][cH:9][c:10]2[c:11](=[O:12])[n:13]1[CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[NH:32][CH2:31][CH2:30][CH2:29][NH:28][C:26]([O:25][C:22]([CH3:21])([CH3:23])[CH3:24])=[O:27],[OH:101][CH:1]([CH2:2][CH3:3])[c:4]1[n:5][n:6]2[cH:7][cH:8][cH:9][c:10]2[c:11](=[O:12])[n:13]1[CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][C:22]([CH3:23])([CH3:24])[O:25][C:26](=[O:27])[NH:28][CH2:29][CH2:30][CH2:31][NH2:32].[O:301]=[S:302]([Cl:303])(=O)c1ccc(cc1)C>>[CH:1]([CH2:2][CH3:3])([c:4]1[n:5][n:6]2[cH:7][cH:8][cH:9][c:10]2[c:11](=[O:12])[n:13]1[CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[NH:32][CH2:31][CH2:30][CH2:29][NH:28][C:26]([O:25][C:22]([CH3:21])([CH3:23])[CH3:24])=[O:27],SN2_with_tosylate,"[(101, 302), ([302, 301], 301), (301, [301, 302]), ([302, 303], 303), (303, 101.1), ([101.1, 101], 101), (32, 1), ([1, 101], 101), (101, 32.1), ([32.1, 32], 32)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH:3]1[CH2:12][CH2:11][N:6]([C:7](=[O:8])[CH2:9][OH:10])[CH2:5][CH2:4]1.[CH3:13][N:14]([C:15](=[O:16])[c:17]1[cH:18][cH:19][c:20]([Cl:21])[cH:22][cH:23]1)[C@@H:24]1[CH2:25][NH:26][CH2:27][C@H:28]1[c:29]1[cH:30][cH:31][c:32]([Cl:33])[c:34]([Cl:35])[cH:36]1>>[C:1](=[O:2])([CH:3]1[CH2:4][CH2:5][N:6]([C:7](=[O:8])[CH2:9][OH:10])[CH2:11][CH2:12]1)[N:26]1[CH2:25][C@@H:24]([N:14]([CH3:13])[C:15](=[O:16])[c:17]2[cH:18][cH:19][c:20]([Cl:21])[cH:22][cH:23]2)[C@H:28]([c:29]2[cH:30][cH:31][c:32]([Cl:33])[c:34]([Cl:35])[cH:36]2)[CH2:27]1,[CH3:13][N:14]([C:15](=[O:16])[c:17]1[cH:18][cH:19][c:20]([Cl:21])[cH:22][cH:23]1)[C@@H:24]1[CH2:25][NH:26][CH2:27][C@H:28]1[c:29]1[cH:30][cH:31][c:32]([Cl:33])[c:34]([Cl:35])[cH:36]1.[OH:101][C:1](=[O:2])[CH:3]1[CH2:4][CH2:5][N:6]([C:7](=[O:8])[CH2:9][OH:10])[CH2:11][CH2:12]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH:3]1[CH2:4][CH2:5][N:6]([C:7](=[O:8])[CH2:9][OH:10])[CH2:11][CH2:12]1)[N:26]1[CH2:25][C@@H:24]([N:14]([CH3:13])[C:15](=[O:16])[c:17]2[cH:18][cH:19][c:20]([Cl:21])[cH:22][cH:23]2)[C@H:28]([c:29]2[cH:30][cH:31][c:32]([Cl:33])[c:34]([Cl:35])[cH:36]2)[CH2:27]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 2], 2), (303, 26.1), ([26.1, 26], 26), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
